US05714438
C. Preparation of 1-(4-trifluoromethylpyrimidin-5-yl)-1-(4-methoxypyrimidin-5-yl)methanol
1-(4-trifluoromethyl-6-chloropyrimidin-5-yl)-1-(2-chloro-4-methoxypyrimidin-5-yl)methanol (0.21 g, 0.59 mmol) was stirred under a hydrogen atmosphere at room temperature with MgO (142 mg, 3.35 mmol, 6 equivalents), and 10% palladium on carbon (Pd/C) (25 mg, Degussa, 50% wet by weight). After 3 hours, an additional 30 mg of 10% Pd/C was added and the solution stirred for 4 hours, filtered over celite and concentrated in vacuo. Preparative radial chromatography (SiO2 ; hexane/EtOAc gradient elution) afforded the desired product, 81 mg (48%) as an oil.

reactant | 1-(4-trifluoromethyl-6-chloropyrimidin-5-yl)-1-(2-chloro-4-methoxypyrimidin-5-yl)methanol | 0.59 mmol, 0.21 g | FC(C1=NC=NC(=C1C(O)C=1C(=NC(=NC1)Cl)OC)Cl)(F)F | C11H7Cl2F3N4O2
catalyst | palladium on carbon | 25 mg | [Pd] | Pd
catalyst | Pd/C | 30 mg | [Pd] | Pd
product | 1-(4-trifluoromethylpyrimidin-5-yl)-1-(4-methoxypyrimidin-5-yl)methanol | FC(C1=NC=NC=C1C(O)C=1C(=NC=NC1)OC)(F)F | C11H9F3N4O2
